US04096185
A mixture of 4.806 g of para-chlorobenzotrifluoride, 0.4991 g of cuprous chloride, 3.103 g of potassium fluoride, 13 g of ammonia, 17.9241 g of methanol, and 0.1961 g of n-undecane was heated at 200° C for 5 hrs in an 80 ml Hastelloy shaker tube. After cooling and venting the ammonia, the product mixture was removed. Most of the methanol and para-chlorobenzotrifluoride were distilled out of the product mixture. The remaining solution was diluted with diethyl ether and extracted with 0.5 M KOH to remove copper and ammonium salts as well as potassium fluoride. The ether layer was dried over CaSO4. Vacuum distillation of the ether layer gave 0.55 g of para-aminobenzotrifluoride.

reactant | para-chlorobenzotrifluoride | 4.806 g | ClC1=CC=C(C=C1)C(F)(F)F | C7H4ClF3
reactant | potassium fluoride | 3.103 g | [F-].[K+]
reactant | ammonia | 13 g | N | H3N
reactant | n-undecane | 0.1961 g | CCCCCCCCCCC | C11H24
solvent | methanol | 17.9241 g | CO | CH4O
product | para-aminobenzotrifluoride | 0.55 g | NC1=CC=C(C=C1)C(F)(F)F | C7H6F3N
